US07981903B2
To a solution of 4-methoxy-3-nitrobenzyl chloride (3.09 g, 15.3 mmol) in 75 mL of absolute ethanol was added methanesulphinic acid sodium salt (3.1 g, 30.7 mmol). The reaction was heated to 80° C. for 16 h. The reaction was cooled to room temperature and poured into water and the aqueous layer was extracted with ethyl acetate. Combined organics were dried over anhydrous MgSO4, filtered, concentrated onto silica gel and purified by flash chromatography with ethyl acetate/hexanes as the eluent. The fractions containing the desired product were concentrated to dryness, then redisolved in absolute ethanol and 10% palladium on carbon (500 mg) was added and the reaction was placed on the Fischer-Porter hydrogenation apparatus and treated with 50 psi of H2 gas overnight to give 2-(methyloxy)-5-[(methylsulfonyl)methyl]aniline (1.7 g, 52%). 1H NMR (400 MHz, CDCl3) δ ppm 6.74 (d, J=8.2 Hz, 1H), 6.62 (d, J=2.2 Hz, 1H), 6.52 (d, J=8.2, 2.2, 1H), 4.76 (s, 2H), 4.19 (s, 2H), 3.72 (s, 3H).

reactant | 4-methoxy-3-nitrobenzyl chloride | 15.3 mmol, 3.09 g | COC1=C(C=C(CCl)C=C1)[N+](=O)[O-] | C8H8ClNO3
reactant | methanesulphinic acid sodium salt | 30.7 mmol, 3.1 g | [Na+].CS(=O)[O-]
reactant | water | O | H2O
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 2-(methyloxy)-5-[(methylsulfonyl)methyl]aniline | 1.7 g, 52% | COC1=C(N)C=C(C=C1)CS(=O)(=O)C | C9H13NO3S
